US03947470
A mixture of 15.2 g. (0.10 mol.) of methyl salicylate, 16.45 g. (0.11 mol.) of 3-diethylaminopropyl chloride and 27.7 g. (0.20 mol.) of potassium carbonate in 250 ml. of 2-butanone is refluxed for 22 hours to give 2-(2-diethylaminopropoxy)benzoic acid which is converted to the corresponding hydrochloride salt by heating with 100 ml. of concentrated hydrochloric acid for three hours, m.p. 137°-140°.

reactant | methyl salicylate | 0.10 mol | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | 3-diethylaminopropyl chloride | 0.11 mol | C(C)N(CCCCl)CC | C7H16ClN
reactant | potassium carbonate | 0.20 mol | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2-(2-diethylaminopropoxy)benzoic acid | C(C)N(C(COC1=C(C(=O)O)C=CC=C1)C)CC | C14H21NO3
